US07960369B2
3-[4-[(2′-isobutyl-6′-methylbiphenyl-3-yl)methoxy]phenyl]propanoic acid
The title compound was synthesized in the same manner as in Reference Example 230 from methyl 3-(4-hydroxyphenyl)propanoate and (2′-isobutyl-6′-methylbiphenyl-3-yl)methanol. colorless oil (yield 58%). MS (APCI−): 401 (M−H).

reactant | methyl 3-(4-hydroxyphenyl)propanoate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | (2′-isobutyl-6′-methylbiphenyl-3-yl)methanol | C(C(C)C)C1=C(C(=CC=C1)C)C1=CC(=CC=C1)CO | C18H22O
product | 3-[4-[(2′-isobutyl-6′-methylbiphenyl-3-yl)methoxy]phenyl]propanoic acid | C(C(C)C)C1=C(C(=CC=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C27H30O3
